US09303040B2
To a solution of (S)-5-methyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride (0.5 g, 1.62 mmol) and 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoic acid (0.7 g, 2.05 mmol) in DCM (40 mL) were added HBTU (1.0 g, 2.64 mmol) and triethylamine (1.38 mL, 9.88 mL). The mixture was stirred at room temperature for 1 hour. The solvent was removed, and the residue was dissolved in ethyl acetate (200 mL) and washed with brine (5×100 mL) and water (3×100 mL). The organic phase was dried and concentrated. The residue was purified by silica gel chromatography, eluting with Hexane/ethyl acetate (2:1-0:1) to give tert-butyl 2-(4-chlorophenyl)-3-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (0.63 g, 70%). 1H NMR (CDCl3, 400 MHz) δ 8.50 (d, J=5.6 Hz, 1H), 7.31-7.23 (m, 4H), 4.76 (m, 1H), 4.18 (m, 3H), 4.92-3.25 (m, 10H), 1.48 (m, 12H), 0.99 (m, 3H), 0.69 (m, 3H). MS (APCI+) [M+H]+ 561.

reactant | (S)-5-methyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride | 1.62 mmol, 0.5 g | Cl.Cl.C[C@@H]1SCC=2N=CN=C(C21)N2CCNCC2
reactant | 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoic acid | 2.05 mmol, 0.7 g | C(C)(C)(C)OC(=O)N(CC(C(=O)O)C1=CC=C(C=C1)Cl)C(C)C | C17H24ClNO4
reactant | HBTU | 2.64 mmol, 1.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.38 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(4-chlorophenyl)-3-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | 0.63 g, 70% | ClC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@H]2C | C28H38ClN5O3S
